US08859591B2
A mixture of methyl 6-formylnicotinate (251.3 mg, 1.52 mmol) and 5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-amine (369 mg, 1.52 mmol) in toluene (8 mL) was heated at reflux under nitrogen overnight. The reaction mixture was concentrated to give methyl 6-((5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-ylimino)methyl)nicotinate (592 mg, 100%). 1H NMR (400 MHz, (CD3)2SO, δ): 9.09 (d, 1H), 8.83 (s, 1H), 8.72 (s, 1H), 8.35-8.30 (m, 2H), 8.20-8.17 (m, 1H), 8.11 (s, 1H), 7.90 (d, 1H), 3.79 (s, 3H), 2.32 (s, 3H).

reactant | methyl 6-formylnicotinate | 1.52 mmol, 251.3 mg | C(=O)C1=NC=C(C(=O)OC)C=C1 | C8H7NO3
reactant | 5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-amine | 1.52 mmol, 369 mg | CC=1C=C(C=NC1N1N=CC(=C1)C(F)(F)F)N | C10H9F3N4
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 6-((5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-ylimino)methyl)nicotinate | 592 mg, 100% | CC=1C=C(C=NC1N1N=CC(=C1)C(F)(F)F)N=CC1=NC=C(C(=O)OC)C=C1 | C18H14F3N5O2
